US08686152B2
To a solution of (3,5-bis-trifluoromethylphenyl)-acetonitrile (25 mmol; 6.33 g) and bis-(2-chloroethyl)-carbamic acid tert-butyl ester (28 mmol; 6.73 g) in N,N-dimethylformamide (50 mL) under Argon was added sodium hydride (75 mmol; 1.90 g) in small portions over a 30 min period. When the addition was complete, the resulting mixture was heated at 70° C. for 1 hour, then stirred for 2½ days at room temperature. Diethyl ether (250 mL) was added, followed by water (20 mL). The organic layer was separated, washed with brine, dried over magnesium sulfate, filtered, and evaporated. The resulting residue was dissolved in a 4N hydrochloric acid solution (20 mL) and the mixture was stirred for 1 hour at room temperature. The resulting mixture was evaporated and triturated with diethyl ether (50 mL). The solid was separated via centrifugation and purified via reverse phase HPLC. The desired fractions were combined and lyophilized. The resulting residue was dissolved in ethyl acetate (50 mL) and washed with a 1N sodium hydroxide solution (20 mL). The organic phase was dried over magnesium sulfate, filtered and evaporated. The residue was dissolved in diethyl ether, and a 1N HCl solution in diethyl ether (10 mL) was added dropwise. A white precipitate formed that was separated via centrifugation and dried under vacuum to yield 4-(3,5-bis-trifluoromethylphenyl)-piperidine-4-carbonitrile as a hydrochloride salt. MS (ESI) m/z 323.1 [M+H]+.

reactant | (3,5-bis-trifluoromethylphenyl)-acetonitrile | 25 mmol, 6.33 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CC#N)(F)F | C10H5F6N
reactant | bis-(2-chloroethyl)-carbamic acid tert-butyl ester | 28 mmol, 6.73 g | C(C)(C)(C)OC(N(CCCl)CCCl)=O | C9H17Cl2NO2
reactant | sodium hydride | 75 mmol, 1.90 g | [H-].[Na+]
reactant | Diethyl ether | 250 mL | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 4-(3,5-bis-trifluoromethylphenyl)-piperidine-4-carbonitrile | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CCNCC1)C#N)(F)F | C14H12F6N2
